US04423213
Benzhydryl 7-salicylideneamino-3-hydroxymethyl-3-cephem-4-carboxylate (1.01 g) was dissolved in methylene chloride (10 ml) and cooled to -30° C. To this solution was added phosphorus pentachloride (0.46 g), followed by addition of pyridine (0.18 ml). The reaction mixture was stirred for an hour at -30° to -20° C. and poured into ice-water. The separated organic layer was washed with water and an aqueous sodium chloride, followed by drying over magnesium sulfate. The solvent was evaporated in vacuo to give benzhydryl 7-salicylideneamino-3-chloromethyl-3-cephem-4-carboxylate (0.9 g).

reactant | Benzhydryl 7-salicylideneamino-3-hydroxymethyl-3-cephem-4-carboxylate | 1.01 g | C(C=1C(O)=CC=CC1)=NC1[C@@H]2N(C(=C(CS2)CO)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H24N2O5S
reactant | phosphorus pentachloride | 0.46 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | pyridine | 0.18 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | benzhydryl 7-salicylideneamino-3-chloromethyl-3-cephem-4-carboxylate | 0.9 g | C(C=1C(O)=CC=CC1)=NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H23ClN2O4S
